US07488848B2
To a solution of acetic acid 2-tert-butoxycarbonylamino-1-cyclopropylcarbamoyl-2-methylpropyl ester in MeOH (10 mL) was added 10% NaOH (1.5 mL). The reaction mixture was stirred at room temperature for 3 h and then acidified with 1N Hydrochloric acid to pH 7. The reaction mixture was extracted with EtOAc. The organic layer was dried (Na2SO4) concentrated to yield (2-cyclopropylcarbamoyl-2-hydroxy-1,1-dimethylethyl)-carbamic acid tert-butyl ester which was used in the next step without further purification.

reactant | acetic acid 2-tert-butoxycarbonylamino-1-cyclopropylcarbamoyl-2-methylpropyl ester | C(C)(C)(C)OC(=O)NC(C(C(NC1CC1)=O)OC(C)=O)(C)C | C15H26N2O5
reactant | NaOH | 1.5 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | (2-cyclopropylcarbamoyl-2-hydroxy-1,1-dimethylethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(O)C(NC1CC1)=O)(C)C)=O | C13H24N2O4
